US07511144B2
To a solution of 0.2 g (0.37 mmol) of tert-butyl ester of 4-{3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]allylidene}piperidine-1-carboxylic acid (II-24a) obtained in Example 12 (12-2) in methanol (2.0 mL) was added 4N hydrochloric acid-dioxane solution (2.0 mL) at 0° C. and stirred for 2 hours at room temperature. The reaction mixture was then concentrated under a reduced pressure, treated with saturated aqueous sodium bicarbonate, extracted with chloroform, and dried over anhydrous magnesium sulfate. After drying, the solution was filtered, and the filtrate was concentrated under a reduced pressure to give crude 2-methyl-4-[4-(3-piperidin-4-ylidene-1-propene-1-sulfonyl)phenoxymethyl]quinoline. This was dissolved in dichloromethane (10 mL), treated with triethylamine (0.077 mL, 0.56 mmol) and pivaloyl chloride (0.058 g, 0.48 mmol) at 0° C., and stirred for 2 hours. The reaction mixture was then concentrated under a reduced pressure, diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate and saturated brine, and dried over magnesium sulfate. The filtrate was concentrated under a reduced pressure to obtain 0.18 g (yield 94.7%) of 2,2-dimethyl-1-(4-{3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]allylidene}piperidin-1-yl)propan-1-one (X-25). Its physical property is shown below.

reactant | 4-{3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]allylidene}piperidine-1-carboxylic acid | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)C=CC=C1CCN(CC1)C(=O)O | C26H26N2O5S
reactant | hydrochloric acid dioxane | 4N, 2.0 mL | Cl.O1CCOCC1
solvent | methanol | 2.0 mL | CO | CH4O
product | 2-methyl-4-[4-(3-piperidin-4-ylidene-1-propene-1-sulfonyl)phenoxymethyl]quinoline | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)C=CC=C1CCNCC1 | C25H26N2O3S
